US04576746
A mixture of 4-(2-benzyloxyethyl)-3-ethyl-2-azetidinone (11.65 g), 2-methoxypropene (7.1 ml), borontrifluoride etherate (0.5 ml) in anhydrous toluene (87 ml) is stirred at room temperature for 31/2 hours. Then potassium t-butoxide (3.13 g) is added at room temperature monitoring the epimerization by means of gas-chromatographic assays. After one hour, 40% acetic acid (30 ml) is added and the mixture is heated to 75° C. for two hours and allowed to stand at room temperature overnight. The aqueous acidic phase which separates is extracted with toluene (two 30-ml portions) and the toluene extracts are combined, dried over Na2SO4 and concentrated to dryness under vacuum yielding 10.5 g of crude 4-(2-benzyloxoethyl)-3-ethyl-2-azetidinone which contains 90% of the trans-isomer (estimated by N.M.R.).

reactant | 4-(2-benzyloxyethyl)-3-ethyl-2-azetidinone | 11.65 g | C(C1=CC=CC=C1)OCCC1C(C(N1)=O)CC | C14H19NO2
reactant | 2-methoxypropene | 7.1 ml | COC(=C)C | C4H8O
reactant | borontrifluoride etherate | 0.5 ml | B(F)(F)F.CCOCC
reactant | potassium t-butoxide | 3.13 g | CC(C)([O-])C.[K+]
solvent | toluene | 87 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4-(2-benzyloxoethyl)-3-ethyl-2-azetidinone | 10.5 g | C(C1=CC=CC=C1)C(CC1C(C(N1)=O)CC)=O | C14H17NO2
